US04966907
A flame-dried 2000-mL 3-neck flask fitted with a 250-mL pressure equilibrated dropping funnel, and internal thermometer, and nitrogen inlet is charged with a solution of 4-tert-butyl-6,7 dihydrobenzofuran (24.26 g, 137.8 mmol) in dry tetrahydrofuran (300 mL). The solution is cooled to 4° C. then a solution of borane 1M in tetrahydrofuran, 142 mL) is added dropwise over 20 minutes such that the internal temperature does not exceed 5° C. during the addition. The cooling bath is removed and the reaction mixture is allowed to warm to room temperature and stir for 2.5 hours. The reaction is then quenched by the dropwise addition of water (9.5 mL) followed (after hydrogen evolution was complete) by the addition of 2.5N NaOH (280 mL). Hydrogen peroxide (30% aqueous solution, 16 mL) is carefully added dropwise such that the reaction temperature is about 45° C. upon completion of the addition. An oil bath is added and the reaction mixture maintained at 45°-50° C. for one hour. The reaction mixture is allowed to cool, then diluted with 20% NaCl (500 mL). The layers are separated and the aqueous layer extracted with an additional portion of tetrahydrofuran (300 mL). The combined organic extracts are washed with 20% NaCl (500 mL), dried (MgSO4), and concentrated. Trituration with hexane afforded trans-4-tert butyl-4,5,6,7-tetrahydro-5-benzofuranol.

reactant | 4-tert-butyl-6,7 dihydrobenzofuran | 137.8 mmol, 24.26 g | C(C)(C)(C)C1=CCCC2=C1C=CO2 | C12H16O
reactant | borane | 1M | B | BH3
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | trans-4-tert butyl-4,5,6,7-tetrahydro-5-benzofuranol | C(C)(C)(C)[C@H]1[C@@H](CCC2=C1C=CO2)O | C12H18O2
